US06787543B2
A mixture of (4R,8aS)-4-benzhydryl-2-(5-bromo-2-methoxybenzyl)octahydropyrrolo[1,2-a]pyrazine dihydrochloride (100 mg), diethyl-3-pyridylboran (39.1 mg), tetrakis(triphenylphosphine)palladium (20.5 mg), powdered potassium hydroxide (29.8 mg) and tetrabutylammonium bromide (17.1 mg) in tetrahydrofuran (2 ml) were stirred for 8 hours at 70° C. After being cooled to room temperature, the reaction mixture was poured into aqueous saturated sodium hydrogen carbonate, and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by preparative TLC (0.5 mm) with a mixture of dichloromethane and methanol (10:1) as an eluent. The resulting residue was treated with 4N hydrogen chloride in ethyl acetate to give (4R,8aS)-4-benzhydryl-2-[2-methoxy-5-(3-pyridyl)benzyl]octahydropyrrolo[1,2-a]pyrazine trihydrochloride (25.9 mg).

reactant | (4R,8aS)-4-benzhydryl-2-(5-bromo-2-methoxybenzyl)octahydropyrrolo[1,2-a]pyrazine dihydrochloride | 100 mg | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(C[C@H]2N1CCC2)CC2=C(C=CC(=C2)Br)OC
reactant | diethyl-3-pyridylboran | 39.1 mg | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | potassium hydroxide | 29.8 mg | [OH-].[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | tetrabutylammonium bromide | 17.1 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 20.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4R,8aS)-4-benzhydryl-2-[2-methoxy-5-(3-pyridyl)benzyl]octahydropyrrolo[1,2-a]pyrazine trihydrochloride | 25.9 mg | Cl.Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(C[C@H]2N1CCC2)CC2=C(C=CC(=C2)C=2C=NC=CC2)OC | InChI=1S/C33H35N3O.3ClH/c1-37-32-17-16-27(28-14-8-18-34-21-28)20-29(32)22-35-23-30-15-9-19-36(30)31(24-35)33(25-10-4-2-5-11-25)26-12-6-3-7-13-26;;;/h2-8,10-14,16-18,20-21,30-31,33H,9,15,19,22-24H2,1H3;3*1H/t30-,31-;;;/m0.../s1
